US09289503B2
(S)-tert-Butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamido)-6--((E)-4-methoxy-4-oxobut-2-enamido)hexanoate (200 mg, 0.334 mmol) was taken up in 3 mL of a 4 N HCl solution in dioxane and stirred at room temperature under an inert atmosphere of argon for 2 h. The reaction mixture was concentrated under reduced pressure and the resulting residue was portioned between 30 mL of EtOAc and 30 mL of water. The organic layer was further washed with brine until the pH of the water layer was close to neutral, dried over Na2SO4 and concentrated under reduced pressure. Purification by preparative HPLC using a mixture of aqueous acetonitrile that has been buffered with 0.1% TFA afforded (S) -2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamido)-6-((E)-4--methoxy-4-oxobut-2-enamido)hexanoic acid, (90 mg; 50%). MS (EI) called for C31H46N2O6: 542.34; found 543 (M+1).

reactant | (S)-tert-Butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamido)-6--((E)-4-methoxy-4-oxobut-2-enamido)hexanoate | 0.334 mmol, 200 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)OC(C)(C)C)CCCCNC(\C=C\C(=O)OC)=O | C35H54N2O6
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S) -2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamido)-6-((E)-4--methoxy-4-oxobut-2-enamido)hexanoic acid | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)O)CCCCNC(\C=C\C(=O)OC)=O | C31H46N2O6
